US07981886B2
36.b) {1-[2-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-hydroxy-ethyl]-piperidin-4-yl}-(4-methoxy-benzothiazol-2-yl)-methanone
A mixture of (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone (83 mg, 0.3 mmol), 6-oxiranyl-2,3-dihydro-benzo[1,4]dioxine (53.5 mg, 0.3 mmol), lithium perchlorate (32 mg, 0.3 mmol) and potassium carbonate (42 mg, 0.3 mmol) in DMF (2 ml) was heated at 80° C. overnight. The mixture was poured on water and extracted with EtOAc. Organic extracts were washed with water and brine, dried over MgSO4 and concentrated. Chromatography on SiO2 (EtOAc/MeOH 9:1) gave the title compound as a beige solid (100 mg, 73%, 4:1 mixture of regioisomers).

reactant | (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone | 0.3 mmol, 83 mg | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCNCC2 | C14H16N2O2S
reactant | 6-oxiranyl-2,3-dihydro-benzo[1,4]dioxine | 0.3 mmol, 53.5 mg | O1C(C1)C1=CC2=C(OCCO2)C=C1 | C10H10O3
reactant | lithium perchlorate | 0.3 mmol, 32 mg | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | potassium carbonate | 0.3 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | {1-[2-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-2-hydroxy-ethyl]-piperidin-4-yl}-(4-methoxy-benzothiazol-2-yl)-methanone | 100 mg, 73% | O1CCOC2=C1C=CC(=C2)C(CN2CCC(CC2)C(=O)C=2SC1=C(N2)C(=CC=C1)OC)O | C24H26N2O5S
